US06048842
NMR (CDCl3) δ: 5.22 (2H, s), 6.31 (1H, t, J=2.5), 6.79 (2H, d, J=2.5) (3) 3,5-Dihydroxyiodobenzene (1.02 g) is dissolved in pyridine (2.8 ml), and thereto is added acetic anhydride (1.53 g) at room temperature. The mixture is stirred for one hour, and the reaction mixture is poured into 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure to give 3,5-diacetoxyiodobenzene (1.37 g).

reactant | 3,5-Dihydroxyiodobenzene | 1.02 g | OC=1C=C(C=C(C1)O)I | C6H5IO2
reactant | acetic anhydride | 1.53 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 2.8 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-diacetoxyiodobenzene | 1.37 g | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)I | C10H9IO4
